US08609653B2
(2S)-2-(tert-butoxy)-2-(1-(3,4-difluorobenzyl)-4-(7-fluorochroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared from 2-(7-fluorochroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane and (S)-methyl 2-(tert-butoxy)-2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate in a manner similar to that described in Example 87. The crude acid was recrystallized from an isopropanol/water mixture to give the title compound as a single isomer. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm=7.36 (d, J=8.2 Hz, 1 H), 7.16-6.96 (m, 4 H), 6.68 (d, J=11.1 Hz, 1 H), 6.16 (s., 1 H), 5.57-5.45 (m, 2 H), 5.30 (d, J=15.2 Hz, 1 H), 4.26 (t, J=5.1 Hz, 2 H), 2.87-2.75 (m, 2 H), 2.71 (s, 3 H), 2.05 (d, J=4.9 Hz, 2 H), 1.02 (s, 9 H); LCMS (m/z) ES+=539 (M+1).

reactant | 2-(7-fluorochroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | FC1=C(C=C2CCCOC2=C1)B1OC(C(O1)(C)C)(C)C | C15H20BFO3
reactant | (S)-methyl 2-(tert-butoxy)-2-(1-(3,4-difluorobenzyl)-4-iodo-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)O[C@H](C(=O)OC)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)F)F)I | C22H23F2IN2O3
product | (2S)-2-(tert-butoxy)-2-(1-(3,4-difluorobenzyl)-4-(7-fluorochroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)F)F)C=2C=C1CCCOC1=CC2F | C30H29F3N2O4
